US05635510
5.1 Synthesis of [3-(3,4-dichloro-phenyl)-1-(2,6-dimethoxy-benzoyl)-3-(2-hydroxy-ethyl)-pyrrolidine (No.027F130)
3-(3,4-Dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (2 g, 7.695 mmol) was dissolved in dichloromethane at -78° C. and treated with 4-methylmorpholine (1.8 mL, 16.4 mmol, 2.1 eq.) and 2,6-dimethoxy-benzoyl chloride (1.55 g, 7.73 mmol) in dichloromethane (20 mL). The solution was allowed to warm to 0° C. and stirred for 1.5 hours. The solution was washed with 1N HCl and 5% sodium bicarbonate and the organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel (200 g) with a gradient of 50% ethyl acetate in hexane to 6% methanol in dichloromethane to give 2.434 g (75%) of the title compound.

reactant | 3-(3,4-Dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine | 7.695 mmol, 2 g | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
reactant | 4-methylmorpholine | 16.4 mmol, 1.8 mL, 2.1 eq. | CN1CCOCC1 | C5H11NO
reactant | 2,6-dimethoxy-benzoyl chloride | 7.73 mmol, 1.55 g | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-(3,4-dichloro-phenyl)-1-(2,6-dimethoxy-benzoyl)-3-(2-hydroxy-ethyl)-pyrrolidine | 2.434 g, 75% | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=C(C=CC=C1OC)OC)=O)CCO | C21H23Cl2NO4
